US06020527
Precursor complex: [Rh(COD)2 ]+X- (X=anion as defined above) In a glove box, a solution of 0.025 mmole of the respective precursor complex (for example [Rh(COD)2 ]+SO3CF3-) in 2.5 ml of THF (0.01 M) was added to 0.025 mmole of the respective ligand in a one-necked flask equipped with a stopcock. The solution was stirred for 1 h, then a solution of 10 mmole of diethylgeranylamine or diethylnerylamine in 10 ml of the respective solvent was added. The flask was then equipped with a reflux condenser connected to a Schlenk line, the apparatus was purged with argon and the solution brought to reflux. Reaction temperature was held constant during the reaction time indicated in the table. The mixture was then cooled to 0° C. before adding 5 ml of a 1:4 of acetic acid/water. The reaction mixture was raised to room temperature and the solution extracted with diethyl ether. The extract was washed with water (10 ml), 15% NaOH solution (2×10 ml), then neutralized with water and thereafter dried over MgSO4. After concentration of the resulting solution, the residue was distilled in a bulb-to-bulb apparatus to give optically active citronellal and with the conversions and ee's as indicated in the tables below.

reactant | diethylgeranylamine | 10 mmole | C(C)C(/C(=C/CC/C(=C/CN)/C)/C)CC | C14H27N
reactant | diethylnerylamine | C(C)C(C(=CCC\C(=C/CN)\C)C)CC | C14H27N
reactant | acetic acid water | C(C)(=O)O.O
solvent | THF | 0.01 M, 2.5 ml | C1CCOC1 | C4H8O
product | citronellal | CC(C)=CCCC(C)CC=O | C10H18O
